US07442813B2
Preparation benzoic acid 4(R)-(2-amino-6-cyclopropylamino-purin-9-yl)-[1,3]dioxolan-2(R)-ylmethyl ester (Compound 6A)
Benzoic acid 4(R)-(2-amino-6-chloro-purin-9-yl)-[1,3]dioxolan-2(R)-ylmethyl ester (1266 g, cis/trans:1.9/1), ethanol (20 L), and cyclopropylamine (643 g) were refluxed for 16 hours. The reaction mixture was cooled and concentrated to a residue. The residue was dissolved in dichloromethane (3.6 L) and agitated with an aqueous solution of sodium bicarbonate for 30 minutes. After settling the organic layer was separated and the aqueous was back-extracted with dichloromethane (2×750 mL). The combined organic layers were concentrated to give a yellow-brown foam (1304 g) of material (9) which is suitable for reaction in the subsequent deprotection step in NH3/MeOH.

reactant | Benzoic acid 4(R)-(2-amino-6-chloro-purin-9-yl)-[1,3]dioxolan-2(R)-ylmethyl ester | 1266 g | NC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H](OC1)COC(C1=CC=CC=C1)=O)Cl | C16H14ClN5O4
reactant | cyclopropylamine | 643 g | C1(CC1)N | C3H7N
solvent | ethanol | 20 L | C(C)O | C2H6O
product | benzoic acid 4(R)-(2-amino-6-cyclopropylamino-purin-9-yl)-[1,3]dioxolan-2(R)-ylmethyl ester | 1304 g | NC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H](OC1)COC(C1=CC=CC=C1)=O)NC1CC1 | C19H20N6O4
